US07989457B2
Step C. 1-(2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-yl)-3-methyl-butan-1-ol
To a solution of 2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-carbaldehyde (1.0 g, 3.6 mmol) in THF (10 mL) at 0° C. is added isobutyl magnesium bromide (2M, 2.2 mL). After stirring at room temperature for 2 hours, it is quenched with saturated ammonium chloride, extracted with EtOAc. The organic is concentrated to give the titled compound as colorless oil: 0.47 g (39%).

reactant | 2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-carbaldehyde | 3.6 mmol, 1.0 g | CC1=C(C(=CC(=C1)C=O)C)C1=CC=C(C=C1)C(F)(F)F | C16H13F3O
reactant | isobutyl magnesium bromide | 2M, 2.2 mL | C(C(C)C)[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-yl)-3-methyl-butan-1-ol | CC1=C(C(=CC(=C1)C(CC(C)C)O)C)C1=CC=C(C=C1)C(F)(F)F | C20H23F3O
